US08871790B2
Compound 80.1. (R)-Tetrahydrofuran-3-yl 1H-imidazole-1-carboxylate
A solution of (R)-tetrahydrofuran-3-ol (500 mg, 5.68 mmol, 1.00 equiv) and CDI (2 g, 12.33 mmol, 2.17 equiv) in tetrahydrofuran (50 mL) was stirred overnight under nitrogen at 60° C. After cooling to room temperature, the mixture was concentrated under reduced pressure. The residue was dissolved in 30 mL of DCM and washed with 1×50 mL of H2O. The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The crude residue was purified using silica gel column chromatography with ethyl acetate/petroleum ether (1:1) to yield 0.95 g (92%) of the title compound as a white solid.

reactant | (R)-tetrahydrofuran-3-ol | 5.68 mmol, 500 mg, 1.00 equiv | O1C[C@@H](CC1)O | C4H8O2
reactant | CDI | 12.33 mmol, 2 g, 2.17 equiv | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (R)-Tetrahydrofuran-3-yl 1H-imidazole-1-carboxylate | 0.95 g, 92% | N1(C=NC=C1)C(=O)O[C@H]1COCC1 | C8H10N2O3
